US07273878B2
To 50 ml of acetone, 10.0 g (42 mmol) of ethyl 2-butoxy-4-methylpyrimidine-5-carboxylate was dissolved, followed by adding 50 ml of water, then adding drop-wise 13.4 g (84 mmol) of a 25% sodium hydroxide aqueous solution, and stirring at room temperature for 1 hour. The reaction liquid was concentrated at 40° C. under reduced pressure to remove acetone, and 10% hydrochloric acid was added to make acidic. The crystal precipitated was filtered, washed with water and dried to obtain 8.00 g (yield: 91%) of 2-butoxy-4-methylpyrimidine-5-carboxylic acid.

reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | ethyl 2-butoxy-4-methylpyrimidine-5-carboxylate | 42 mmol, 10.0 g | C(CCC)OC1=NC=C(C(=N1)C)C(=O)OCC | C12H18N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-butoxy-4-methylpyrimidine-5-carboxylic acid | 8.00 g, yield: 91% | C(CCC)OC1=NC=C(C(=N1)C)C(=O)O | C10H14N2O3
